US07208497B2
To a solution of 3-fluoro-4-methoxyacetophenone (2.59 g, 15.4 mmol) and dimethyl oxalate (2.0 g, 16.9 mmol) in THF (25 ml) was portionwise added a 1.7 M solution of potassium tert-amylate in toluene (25 ml, 42.5 mmol). The mixture was stirred at room temperature for 14 hours. Water (1.0 ml) and more THF (25 ml) were added, and stirring at room temperature was continued for 30 hours. Water (250 ml) was added, and the mixture was washed with a mixture of heptane and toluene. The aqueous phase was filtered, acidified with concentrated hydrochloric acid (6.0 ml), and filtered. After drying, 3.09 g (84%) of 4-(3-fluoro-4-methoxyphenyl)-4,2-dioxobutyric acid was obtained. A mixture of this acid (1.99 g, 8.29 mmol), ethanol (75 ml), and hydrazine hydrate (0.80 ml, 2 equiv.) was refluxed for 18 hours. Water (250 ml) and concentrated hydrochloric acid (4.0 ml) were added, and the mixture was filtered. After drying under reduced pressure 1.76 g (90%) of 5-(3-fluoro-4-methoxyphenyl)-2H-pyrazole-3-carboxylic acid acid was obtained as a solid. This acid was used to prepare the title amide using General Procedure (D).

reactant | 3-fluoro-4-methoxyacetophenone | 15.4 mmol, 2.59 g | CC(=O)C1=CC(=C(C=C1)OC)F | C9H9FO2
reactant | dimethyl oxalate | 16.9 mmol, 2.0 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | potassium tert-amylate | CCC(C)(C)[O-].[K+]
reactant | toluene | 42.5 mmol, 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | Water | 250 ml | O | H2O
solvent | Water | 1.0 ml | O | H2O
product | 4-(3-fluoro-4-methoxyphenyl)-4,2-dioxobutyric acid | 3.09 g, 84% | FC=1C=C(C=CC1OC)C(CC(C(=O)O)=O)=O | C11H9FO5
